US05371093
α-[1-[2-(4-Methoxyphenyl)ethyl]-4-piperidinyl]-2-benzothiazolemethanol
Dissolve [2-benzothiazolyl][1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]methanone (3.0 g, 7.88 mmol) in methanol (150 mL) and cool to 0° C. Add sodium borohydride (597 mg, 15.77 mmol) and stir for 1.5 hours, adding additional sodium borohydride after 30 minutes. Evaporate the solvent in vacuo and partition the residue between water and methylene chloride. Separate the organic phase, wash with saturated sodium chloride, dry (MgSO4) and evaporate the solvent in vacuo. Purify by recrystallization (ethyl acetate) to give the title compound as white fluffy crystals; mp 127°-129° C.

reactant | [2-benzothiazolyl][1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]methanone | 7.88 mmol, 3.0 g | S1C(=NC2=C1C=CC=C2)C(=O)C2CCN(CC2)CCC2=CC=C(C=C2)OC | C22H24N2O2S
reactant | sodium borohydride | 15.77 mmol, 597 mg | [BH4-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
product | α-[1-[2-(4-Methoxyphenyl)ethyl]-4-piperidinyl]-2-benzothiazolemethanol | COC1=CC=C(C=C1)CCN1CCC(CC1)C(O)C=1SC2=C(N1)C=CC=C2 | C22H26N2O2S
